US04923857
To a solution of (2S)-1-allyloxycarbonyl-2 -methoxycarbonylpyrrolidine (2.0 g) in ethanol (30 ml) was added sodium borohydride (1.06 g) at 20° C. and the resulting mixture was allowed to stir for 18 hours at 20°-25° C. The reaction mixture was taken up into a mixture of brine (100 ml) and ethyl acetate (100 ml). The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (50 ml) eluting with a mixture of dichloromethane and acetone (20:1) to give (2S)-1-allyloxycarbonyl-2-hydroxymethylpyrrolidine (769.2 mg).

reactant | (2S)-1-allyloxycarbonyl-2 -methoxycarbonylpyrrolidine | 2.0 g | C(C=C)OC(=O)N1[C@@H](CCC1)C(=O)OC | C10H15NO4
reactant | sodium borohydride | 1.06 g | [BH4-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | brine | 100 ml | [Cl-].[Na+].O
product | (2S)-1-allyloxycarbonyl-2-hydroxymethylpyrrolidine | 769.2 mg | C(C=C)OC(=O)N1[C@@H](CCC1)CO | C9H15NO3
